US05872115
Step 3): A solution of 4-(N-methylamino)methyl-1-diphenylmethylpiperidine (1.8 g, 6.0 mmol), isatoic anhydride (0.9 g, 5.5 mmol) and 4-dimethylaminopyridine (0.74 g) in DMF (25 ml) was stirred at room temperature for 2 hours. The reaction mixture was poured into 1% NaHCO3 solution and extracted with ethyl acetate. The organic layer was washed with water, dried and concentrated. The residue was purified by column chromatography on silica gel (ethyl acetate and hexane) to give 2-amino-N-methyl-N-[(1-diphenylmethylpiperidin-4-yl)methyl]benzamide (1.5 g, 67%).

reactant | 4-(N-methylamino)methyl-1-diphenylmethylpiperidine | 6.0 mmol, 1.8 g | CNCC1CCN(CC1)C(C1=CC=CC=C1)C1=CC=CC=C1 | C20H26N2
reactant | isatoic anhydride | 5.5 mmol, 0.9 g | C1=2C(=O)OC(NC1=CC=CC2)=O | C8H5NO3
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
catalyst | 4-dimethylaminopyridine | 0.74 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
product | 2-amino-N-methyl-N-[(1-diphenylmethylpiperidin-4-yl)methyl]benzamide | 1.5 g, 67% | NC1=C(C(=O)N(CC2CCN(CC2)C(C2=CC=CC=C2)C2=CC=CC=C2)C)C=CC=C1 | C27H31N3O
